US04533677
Bromoacetaldehyde diethylacetal, 52.4 g (0.26 mol), was mixed carefully with approximately 70.7 g (0.967 mol) diethylamine and stirred at 40° C. overnight. The reaction mixture was concentrated under reduced pressure and the residue dissolved in water and basified with cold 5N sodium hydroxide. The reaction mixture was extracted twice with diethyl ether, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give a tan oil. Distillation gave 35.8 g (72.8%) diethylaminoacetaldehyde diethylacetal as a clear liquid. B.p. 65°-75° C. @ 1.0 mmHg.

reactant | Bromoacetaldehyde diethylacetal | C(C)OC(CBr)OCC | C6H13BrO2
reactant | diethylamine | 0.967 mol, approximately 70.7 g | C(C)NCC | C4H11N
product | diethylaminoacetaldehyde diethylacetal | 35.8 g, 72.8% | C(C)OC(CN(CC)CC)OCC | C10H23NO2
